US05334576
Preparation of 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 yl)-5-[(phenylsulfonyl)methyl]nicotinic acid, methyl ester
A solution of 5.9 g of 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5 -[(phenylsulfonyl)methyl]nicotinic acid, methyl ester, and 0.3 g p-dimethylaminopyridine in 50 mL pyridine is stirred at room temperature and 1.75 mL benzoyl chloride is added in one portion. After stirring overnight, the reaction is concentrated in vacuo and the residue is partitioned between methylene chloride and aqueous sodium bicarbonate. The aqueous phase is further extracted with methylene chloride, and the combined organic phases are dried and concentrated in vacuo. Chromatography of the residue on silica gel using hexane-ethyl acetate mixtures affords the desired product, mp 162°-166°.

reactant | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5 -[(phenylsulfonyl)methyl]nicotinic acid, methyl ester | 5.9 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)CS(=O)(=O)C1=CC=CC=C1)C | C21H23N3O5S
reactant | benzoyl chloride | 1.75 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | p-dimethylaminopyridine | 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 yl)-5-[(phenylsulfonyl)methyl]nicotinic acid, methyl ester | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)CS(=O)(=O)C1=CC=CC=C1 | C28H27N3O6S
